Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Augmentin
 
Attending: ___
 
Chief Complaint:
cardiac arrest, seizure
 
Major Surgical or Invasive Procedure:
___ - Intubated 
___ - Post arrest cooling protocol 
___ - Extubated
___ - PICC placed
___ - PICC removed 
 

 
History of Present Illness:
___ yo female with history of polysubstance abuse (reportably 
"clean for a while" per friends), seizure disorder, HCV who was 
out with friends prior to admission when she started to feel 
like she was going to have a seizure. Her friends reported that 
she had seizure-like activity for possibly 2 hours before EMS 
was called, although this is questionable. Police however said 
that she was having these symptoms for a while they were with 
her.  

When EMS arrived she had no pulse, AED was put on and no shock 
was advised, was ___ PEA. CPR was done until ACLS arrived. She 
regained a pulse and AED read VT so she was shocked 2x and 
received one round of epi. She was intubated ___ the field, 
without RSI, and received 150mg of amiodarone and 2mg narcan 
while en route. Her eyes were reported as fixed upward and 
pupils were large (possibly fixed and dilated). 

___ ED at ___ she received keppra 1g, Ativan 
multiple rounds as bolus (total 10mg), 2 of versed x2,  1g 
phosphenytoin, on 30 of propofol, 100mcg fentanyl, 250cc bolus 
of fluids. She was having ?posturing versus seizure activity 
while ___ the ED at ___. The most purposeful movement she had was 
biting the ET tube. Her toes were flexed/curled bilaterally, 
having contractures of her upper extremities, she was tremulous 
and possibly decorticating. Physical exam reports large pupils 
but reactive to light at this point. Abrasions seen on bilateral 
extremities. A needle was found next to her shirt. 

She was pan-scanned with negative CT head and neck, CT thorax 
with tiny bilateral pleural effusions and atelectasis, and 
abdomen had ?free fluid ___ the pelvis. She had prolonged QTc to 
680 and received 2mg Mg. Her labs significant for Hct 32, K+ 
3.4, lactate 10.8, WBC 14 and trop 0.563. AST 200, ALT 104. HCG 
was negative. Utox positive for cocaine ___ the urine. UA >500 
protein and glucose, 5 ketones, small blood. 

En route to ___ she received an additional 2mg of Ativan, 
another 100mcg of fentanyl.
 
On arrival to the MICU, patient was intubated and sedated, 
unable to provide further collateral. Propofol was on 30 when 
she arrived and was shivering from cooling blanket, so was 
bolused with propofol and fentanyl and started on norepi. Not 
responding to noxious stimuli, no purposeful movements. A 
central line was placed and she was hooked up to continuous EEG. 
Attempt to contact mother, left ___. 
 
REVIEW OF SYSTEMS: unable to obtain, patient is intubated  
 
Past Medical History:
Opioid dependence 
Depression
Bipolar disorder
Hepatitis C - VL 548 IU/mL ___ ___
Polysubstance abuse: IV Heroin, benzo, marijuana 
Tobacco Use

 
Social History:
___
Family History:
___ - breast cancer
 
Physical Exam:
ADMISSION PHYSICAL:
#ERROR!
 VITALS:  97.2F, 96/74, HR 68, RR 18, 100% on 30% FiO2
 ___: Intubated, sedated, shivering with goosebumps
 HEENT: Pupils minimally reactive to light. Sclera anicteric, 
MMM, oropharynx clear  
 NECK: supple, JVP not elevated, no LAD  
 LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
 ABD: soft, non-tender, non-distended, bowel sounds present  
 EXT: 2+ pulses, no clubbing, cyanosis or edema  
 SKIN: Cool, arctic sun ___ place, excoriations and abrasions 
present on lower extremities bilaterally 

DISCHARGE PHYSICAL:
#ERROR!
Vitals:  98.1 PO 103/68 HR 65 RR 18 99%   
___: less agitated, sitting ___ on bed eating a pancake ___ 
NAD
HEENT: Sclerae anicteric, MMM, NG tube ___ place  
CARDIOVASCULAR: Regular rate and rhythm, normal S1 + S2, no   
murmurs, rubs, gallops  
LUNGS: CTAB anteriorly  
ABDOMEN: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: Foley ___ place  
EXTREMITIES: Warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema. scratches diffusely on upper and lower   
extremities. Excoriations around the anus  
NEURO: Pupils equal and reactive, no dysarthria. Can lift arms 
and shake my hand. Sensation intact throughout. Oriented to 
self, not to time or place  
ACCESS: R PICC  

 
Pertinent Results:
ADMISSION LABS:
#ERROR!
___ 04:01AM BLOOD WBC-8.9# RBC-3.29* Hgb-9.0* Hct-27.9* 
MCV-85 MCH-27.4# MCHC-32.3 RDW-13.4 RDWSD-41.5 Plt ___
___ 04:01AM BLOOD Neuts-80.0* Lymphs-12.2* Monos-6.5 
Eos-0.6* Baso-0.1 Im ___ AbsNeut-7.12* AbsLymp-1.09* 
AbsMono-0.58 AbsEos-0.05 AbsBaso-0.01
___ 04:01AM BLOOD ___ PTT-23.4* ___
___ 04:01AM BLOOD Plt ___
___ 04:01AM BLOOD Glucose-142* UreaN-14 Creat-0.8 Na-142 
K-3.5 Cl-106 HCO3-23 AnGap-13
___ 04:01AM BLOOD ALT-88* AST-177* LD(LDH)-579* 
CK(CPK)-3911* AlkPhos-76 TotBili-0.3
___ 04:01AM BLOOD CK-MB-11* MB Indx-0.3 cTropnT-0.04*
___ 04:01AM BLOOD Calcium-7.7* Phos-2.9 Mg-2.1
___ 12:30PM BLOOD HIV Ab-NEG
___ 08:28AM BLOOD Phenyto-13.0
___ 08:28AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:28AM BLOOD HCV VL-NOT DETECT
___ 04:20AM BLOOD ___ pO2-46* pCO2-47* pH-7.31* 
calTCO2-25 Base XS--2
___ 04:20AM BLOOD Glucose-138* Lactate-1.7 K-3.1*
___ 12:40PM BLOOD O2 Sat-55
___ 04:20AM BLOOD freeCa-1.06*

MICROBIOLOGY
#ERROR!
  URINE CULTURE (Final ___:    NO GROWTH. 
  Blood Culture, Routine (Final ___:    NO GROWTH. 

 GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH 
PSEUDOHYPHAE. 

   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
      STAPH AUREUS COAG +.    SPARSE GROWTH.  ___ TYPE. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

IMAGING
#ERROR!
___ ECHO
The left atrium is normal ___ size. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. There is severe global left ventricular hypokinesis 
(LVEF = 25 %). No masses or thrombi are seen ___ the left 
ventricle. The right ventricular free wall thickness is normal. 
The right ventricular cavity is dilated with severe global free 
wall hypokinesis. The diameters of aorta at the sinus, ascending 
and arch levels are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis. Trace aortic regurgitation is seen. The mitral valve 
leaflets are structurally normal. Mild (1+) mitral regurgitation 
is seen. The estimated pulmonary artery systolic pressure is 
normal. There is no pericardial effusion. 
 IMPRESSION: severe global biventricular contractile dysfunction 
 

___ CXR
No prior chest radiographs available for review.  Heart size 
normal.  
Configuration is consistent with but not diagnostic of dilated 
main pulmonary artery, a feature often seen normally ___ young 
women. 
Lungs clear.  No pleural abnormality. 
ET tube and nasogastric drainage tubes ___ standard placements.  
Lower 
esophageal probe ___ place. 

___ EEG 
IMPRESSION: This is an abnormal continuous ICU EEG monitoring 
study because of 1) a generalized and bicentral predominant 
epileptiform discharges that at times reach ___ Hz frequency 
and last greater than 10 seconds ___ duration consistent with 
electrographic seizures. There is no clinical correlate to these 
events. These subclinical seizures for the most part occur ___ 
the early portions of the recording and there is significant 
improvement by mid afternoon on ___, some brief runs are 
noted during the midnight to morning hours of ___, 2) slowed 
background which is indicative of a severe encephalopathy. 
Anoxia/hypoxia, toxic/metabolic disturbances and anesthetic 
effects are the most common causes of such findings. 

___ EEG
IMPRESSION: This is an abnormal continuous ICU EEG monitoring 
study because of 1) multifocal and bi-central predominant sharp 
and spike epileptiform discharges seen early ___ the recording, 
consistent with a highly irritable cortex and multifocal regions 
of epileptogenicity, and 2) higher amplitude ___ Hz polymorphic 
delta seen later ___ the recording which is etiologically non 
specific but would be consistent with a moderate to severe 
encephalopathy under the appropriate clinical circumstances, 
There is a single pushbutton activation for spontaneous eye 
opening with no electrographic correlate, and no seizure seen. 
There were no electrographic seizures seen. Overall, the 
telemetry is improved with reduction of the interictal 
epileptiform discharges and electrographic seizures noted on the 
prior days' recordings. The background is replaced by the 
diffuse slowing. 

___ MRI BRAIN
1. Diffuse gyriform slow diffusion involving the bilateral 
parietal and 
occipital lobes, and posterior frontal lobes.  Equivocal signal 
abnormalities ___ bilateral caudate nuclei.  These findings are 
compatible with global hypoxic ischemic injury.  No mass effect. 

2. Motion limited brain MRA.  Apparent diminished flow ___ the 
superior 
division and inferior division of the left MCA compared to the 
right, versus artifact.  Apparent focus of beading within the A 
2 segment of the right anterior cerebral artery, versus 
artifact. 
  
DISCHARGE LABS
#ERROR!
___ 05:31AM BLOOD WBC-7.6 RBC-4.17 Hgb-12.0 Hct-37.1 MCV-89 
MCH-28.8 MCHC-32.3 RDW-15.2 RDWSD-49.1* Plt ___
___ 05:31AM BLOOD ___ PTT-18.3* ___
___ 05:31AM BLOOD Glucose-80 UreaN-21* Creat-0.5 Na-143 
K-4.3 Cl-104 HCO3-23 AnGap-16
___ 05:31AM BLOOD ALT-15 AST-25 LD(LDH)-217 AlkPhos-80 
TotBili-0.3
___ 08:28AM BLOOD HCV VL-NOT DETECT
 
Brief Hospital Course:
___ yo female with history of polysubstance abuse, seizure 
disorder, HCV (VL 548 IU/mL ___ ___ who is s/p cardiac arrest 
___ the setting of cocaine use and seizure-like activity. 

#Seizure disorder
#Anoxic brain injury
She was loaded with keppra, phosphenytoin and given several does 
of Ativan for seizure-like activity at OSH.  Initial exam was 
limited by sedation, notable for intact pupillary response and 
oculocephalic response, with no movement to noxious stimuli ___ 
all four extremities, and no clear long-tract signs. She was put 
on continuous EEG upon arrival to the MICU. EEG showing evolving 
3 Hz bicentral rhythmic discharges concerning for electrographic 
seizure. Per neurology recommendations she was continued on 2g 
keppra, 750 valproic acid TID and lacosamide 100mg IV BID due to 
continued seizures while ___ the ICU. EEG and all AEDs were 
continued until that patient was seizure free for 48-72 hours. 
She was followed by neurology who managed her AEDs on a daily 
basis.  Neurology recommended continuing keppra, valproic acid, 
and lacosamide at the same doses and following up with 
outpatient neurology for taper. 

#s/p Cardiac arrest: 
Patient likely arrested ___ the setting of preceding seizure 
activity with QTc prolongation on EKG ___ the setting of ___ 
use leading to polymorphic VT/torsades and subsequent cardiac 
arrest. Her initial TTE after her arrest showed severe global 
biventricular contractile dysfunction, probably from myocardial 
stunning ___ the setting of arrest. QTc prolonging medications 
were held throughout her hospitalization. MRI of the brain 
showed diffuse areas of slow diffusion involving predominantly 
the bilateral parietal and occipital lobes, with more subtle 
involvement of the bilateral frontal lobes. Findings are 
compatible with global hypoxic ischemic injury. Her mental 
status gradually improved throughout the hospitalization. ___ 
evaluated the patient and recommended discharge to rehab. 

#Nutrition
Patient at risk for aspiration, failed a speech and swallow 
evaluation and a Dobhoff tube was placed for enteral access and 
enteral nutrition. Speech and swallow re-evaluated the patient 
several times throughout the hospitalization. The patient's 
swallow function improved, and her diet was changed to ground 
solids with nectar thickened liquids. Her dobhoff tube was then 
removed. 

#Transaminitis
Likely secondary to shock liver, also has known Hepatitis C 
although her viral load was undetectable. Her liver enzymes were 
normal at discharge. 

#Polysubstance use
Per chart review has history of polysubstance abuse, has used IV 
heroin, benzos, marijuana and tobacco ___ the past. Utox at OSH 
was positive for cocaine and needle was found on patient's 
clothing. During MICU stay two balloons of what appeared to be 
drugs were found ___ the patient's vagina. Social work was 
consulted. They provided patient with resources for behavioral 
health clinics. Her mother is a source of support along with 
grandmother. 

# Rehab: 
Pt is a ___ y/o female presenting to physical therapy during 
hospitalization for cardiac arrest resulting ___ anoxic brain 
injury. Pt is participated well with therapy today tolerating 
mobility well w/ no complaints and is making gradual progress 
toward goals. Overall, pt does continue to demonstrate impaired 
balance including eactions/strategies, impaired functional 
trength, and impaired gait all of which decreasing functional 
obility.  Pt will continue to benefit from skilled ___ ___ order 
to improve upon these deficits and to maximize safety and 
functional mobility as able.  Pt is an excellent candidate for 
___ rehab given ability to tolerate 3hrs of 
therapy daily, age, anticipated recovery with continued therapy, 
high PLOF, and motivation for independent mobility.  Will 
continue to follow during acute stay.

TRANSITIONAL ISSUES
#ERROR!
- Should be seen by social work at rehab RE: placement upon 
discharge from rehab and substance abuse counseling 
- Pet therapy if available 
- Repeat TTE ___ weeks with cardiology; family to arrange 
cardiology f/u ___ ___ and ___  
- Follow up with neurology scheduled ___
- Prior to discharge, please make sure patient is arranged for 
follow up with our comprehensive epilepsy clinic (___) 
- NO QTc PROLONGING AGENTS 
- NO NARCOTICS 
- Narcan upon discharge 
- QTc on ___: 461
- Weight on discharge: 143.9 lb 
- Code Status: full code 
- Contact Mother ___ ___  
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Gabapentin 800 mg PO TID 
2. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL DAILY 
3. ClonazePAM 1 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  LACOSamide 100 mg PO BID  
3.  LevETIRAcetam Oral Solution ___ mg PO Q12H  
4.  LORazepam 0.5 mg PO Q8H:PRN agitation 
RX *lorazepam [Ativan] 0.5 mg 1 tab by mouth every eight hours 
Disp #*15 Tablet Refills:*0 
5.  Valproic Acid ___ mg PO TID  
6.  Vancomycin Oral Liquid ___ mg PO Q6H 
Last dose ___. HELD- Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL DAILY  This 
medication was held. Do not restart Buprenorphine-Naloxone 
(8mg-2mg) until you follow up with a ___ clinic 
8. HELD- ClonazePAM 1 mg PO BID  This medication was held. Do 
not restart ClonazePAM until you follow up with your outpatient 
provider 
9. HELD- Gabapentin 800 mg PO TID  This medication was held. Do 
not restart Gabapentin until you follow up with your neurologist 


 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Cardiac arrest and seizure

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized at ___. 

Why did you come to the hospital?
You were transferred to our ___ from ___ 
following cardiac arrest ___ the setting of cocaine use and 
seizure-like activity.

What did we do for you?
- You were initially intubated and managed ___ our intensive care 
unit due to injury to your heart and brain when you were down 
with cardiac arrest. Once your neurological status improved, you 
were transferred to our ___ medicine floor. 
- We managed your hypoxic brain injury (a result of your brain 
being poorly perfused from cardiac arrest) with antiepileptic 
medications
- We managed your cardiac hypoxic injury with a cooling protocol
- Since you were unable to tolerate oral food intake until your 
day of discharge, we provided nutrition through a ___ 
Dobhoff tube

What do you need to do?
- You are being discharged to a rehabilitation facility ___ order 
to regain strength
- You will have close follow-up with our neurology team, who 
will manage your anti-epileptic medications on an out-patient 
basis

It was a pleasure caring for you. We wish you the best!

Sincerely,
Your ___ Medicine Team
 
Followup Instructions:
___